* Z:\mnt\spice-netlists\LTC3805_TA01.asc
L1 IN N003 76µ
L2 0 N001 1µ
M§Q1 N003 N005 N008 N008 Si4848DY
R1 N008 0 68m
R2 IN N002 100K tol=5 pwr=1
D1 N001 OUT 1N5817
R3 OUT N013 71.5K
R4 N013 0 13.7K
C1 OUT 0 100µ
C2 N002 0 22µ
R5 N012 N011 20K
C3 N011 0 470p
V1 IN 0 48
XU1 N006 N012 N013 N004 N009 MP_01 N010 N007 N002 N005 0 LTC3805
R7 IN N004 221K
R8 N004 0 8.66K
R9 N009 0 118K
C4 N006 0 .001µ
D2 OUT N002 1N5817
C5 IN 0 2.2µ x2
R10 N008 N007 1.33K
R11 N008 N010 3K
Rload OUT 0 2.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 530m startup
* LTC3805 - Adjustable Frequency Current Mode Flyback DC/DC Controller\nNonisolated Telecom Flyback Converter\nInput: 36V to 72V     Output: 5V @ 2A (Fsw: 200kHz)
* Note:\n  To reduce simulation time a smaller value for the SS capacitor has been used; please refer to the datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3805.sub
.backanno
.end
